### PR TITLE
feat(MagicFunction/PolyFourierCoeffBound): prove `step_12`

### PR DESCRIPTION
**Pull request by pitmonticone**
Co-authored-by: Aristotle Harmonic [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun)

### CODE REVIEW

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 1]
```diff
@@ -373,9 +373,45 @@ private lemma step_12 :
       _ ≤ π * ↑↑n * 1 := by rw [mul_one]
       _ < π * ↑↑n * z.im * 2 := by
         rw [mul_assoc (π * ↑↑n), mul_lt_mul_iff_right₀ (by positivity)]
-        linarith
-    · sorry
-    · sorry
+        grind
```
Comment (mattcushman) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:376]: Curious why the closing of the previous goal was changed to grind

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 2]
```diff
@@ -373,9 +373,45 @@ private lemma step_12 :
...
+            summable_geometric_of_lt_one (by exact exp_nonneg (-π)) (by norm_num; exact pi_pos)
+          simpa [Real.exp_neg, Real.exp_mul] using h_geo_series
+        have h_summable : Summable (fun n : ℕ+ ↦ 24 * Real.exp (-Real.pi * (n : ℕ))) :=
+          Summable.mul_left _ <| h_geo_series.comp_injective Subtype.coe_injective
+        exact (Summable.of_nonneg_of_le ( fun n ↦ abs_nonneg _ ) h_bound h_summable).of_abs
+      have h_prod_conv :
+          Multipliable (fun n : ℕ+ ↦ 1 + ((1 - Real.exp (-Real.pi * (n : ℕ))) ^ 24 - 1)) :=
+        multipliable_one_add_of_summable h_prod_conv.norm
+      aesop
+    · have h_geo_series : Summable (fun n : ℕ+ ↦ Real.exp (-2 * Real.pi * n * z.im)) := by
```
Comment (mattcushman) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:400]: interesting that this goal is very similar to the above one, if anything slightly more complex because of extra constants in the exponent, but the proof here is shorter.  wonder if it could be consolidated into a lemma as was done in [PR 188](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/188) which would make this even shorter.

**Review by mattcushman — COMMENTED** [review]
Closes two sorrys that were also closed in [PR 188](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/188).  It uses grind a number of times, which I was unsure is allowed or not.  It might be possible to integrate the two to make even shorter and easier to read.  As @seewoo5 pointed out [here](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/188#discussion_r2546735411) this might also be something that could be consolidated with part of PR 182

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean (hunk 1 above)
Comment (pitmonticone) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:376]: In general more efficient than `linarith`.

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean (hunk 2 above)
Comment (pitmonticone) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:400]: I have closed this PR because you proved and merged already.

Comment (mattcushman) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:400]: Good to know, thanks.

**Comment by thefundamentaltheor3m** [comment]
I am closing this PR because it seems to be defunct. If anyone needs it please reopen it. Thank you
